US05198449
N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[2-(2-naphthalenyloxy)ethyl]-4-piperidinemethanamine dihydrochloride
A mixture of 4.20 g (0.010 mol) of 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine, 2.90 g (0.012 mol) of 2-(2-bromoethoxy)naphthalene, 8.1 g (0.096 mol) of sodium bicarbonate, and a trace of sodium iodide in 400 mL of 1-butanol was heated at reflux for 16 h. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute NaOH. The CH2Cl2 solution was dried (Na2SO4), and the solvent was removed in vacuo to give a gum. This was subjected to flash column chromatography (silica gel, eluted with CH2Cl2 and 1-2% MeOH in CH2Cl2) to give the free base. This was converted to the HCl salt, and the salt was recrystallized from diethyl ether/MeOH to give 3.05 g (54.1%) as a white crystalline solid: mp 210°-215° C.

reactant | 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine | 0.010 mol, 4.20 g | FC=1C=C(C=CC1F)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F3N2
reactant | 2-(2-bromoethoxy)naphthalene | 0.012 mol, 2.90 g | BrCCOC1=CC2=CC=CC=C2C=C1 | C12H11BrO
reactant | sodium bicarbonate | 0.096 mol, 8.1 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1-butanol | 400 mL | C(CCC)O | C4H10O
product | N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[2-(2-naphthalenyloxy)ethyl]-4-piperidinemethanamine dihydrochloride | Cl.Cl.FC=1C=C(C=CC1F)NC(C1CCN(CC1)CCOC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | InChI=1S/C30H29F3N2O.2ClH/c31-25-8-5-22(6-9-25)30(34-26-10-12-28(32)29(33)20-26)23-13-15-35(16-14-23)17-18-36-27-11-7-21-3-1-2-4-24(21)19-27;;/h1-12,19-20,23,30,34H,13-18H2;2*1H
